US05126482
2.0 g (7.7 mmol) of (R)-(+)-2-fluoro-2-(trifluoromethyl)-decanoic acid was cooled with ice, and 1.8 g (8.5 mmol) of phosphorus pentachloride was added to the acid. The resulting mixture was stirred for 30 minutes while being cooled with ice, and then stirred at room temperature for 8 hours. Subsequently, the resulting reaction mixture was distilled under reduced pressure, thereby obtaining 1.4 g of (S)-(+)-2-fluoro-2-(trifluoromethyl)decanoyl chloride having the physical properties as mentioned hereinbefore, in a yield of 66%.

reactant | (R)-(+)-2-fluoro-2-(trifluoromethyl)-decanoic acid | 7.7 mmol, 2.0 g | F[C@@](C(=O)O)(CCCCCCCC)C(F)(F)F | C11H18F4O2
reactant | phosphorus pentachloride | 8.5 mmol, 1.8 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
product | (S)-(+)-2-fluoro-2-(trifluoromethyl)decanoyl chloride | 1.4 g, yield of 66% | F[C@@](C(=O)Cl)(CCCCCCCC)C(F)(F)F | C11H17ClF4O
